US08729271B2
N-{1-[2-(4-Fluorophenyl)pyridin-4-yl]ethyl}cyclobutaneamine
Titanium(IV) isopropoxide (1.85 g) was added to a solution of cyclobutylamine (930 mg) in methanol (10 mL), and the mixture was stirred at room temperature for 10 min. A solution of 1-[2-(4-fluorophenyl)pyridin-4-yl]ethanone (350 mg) in methanol (5 mL) was added thereto and the mixture was stirred at room temperature overnight. Saturated sodium hydrogen carbonate solution was added to the reaction mixture, which was then filtered through Celite, and the solvent was distilled off under reduced pressure. After extracting with chloroform, the organic phase was separated out, and the solvent was distilled off under reduced pressure. The resulting residue was purified by column chromatography (NH silica gel cartridge, hexane:ethyl acetate=98:2-80:20) to afford the title compound (430 mg).

reactant | cyclobutylamine | 930 mg | C1(CCC1)N | C4H9N
reactant | 1-[2-(4-fluorophenyl)pyridin-4-yl]ethanone | 350 mg | FC1=CC=C(C=C1)C1=NC=CC(=C1)C(C)=O | C13H10FNO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
catalyst | Titanium(IV) isopropoxide | 1.85 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | N-{1-[2-(4-Fluorophenyl)pyridin-4-yl]ethyl}cyclobutaneamine | 430 mg | FC1=CC=C(C=C1)C1=NC=CC(=C1)C(C)NC1CCC1 | C17H19FN2
